US08314091B2
A: Methyl 6-(3-phenylureido)nicotinate
To a solution of methyl 6-aminonicotinate (500 mg, 3.29 mmol) in N,N-diemthylformamide (5 mL) was added phenyl isocyanate (358 μL, 3.29 mmol). The mixture was heated to 100° C. for 2 hours and was then concentrated under vacuum to give the title compound (928 mg).

reactant | methyl 6-aminonicotinate | 3.29 mmol, 500 mg | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | phenyl isocyanate | 3.29 mmol, 358 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | Methyl 6-(3-phenylureido)nicotinate | 928 mg | C1(=CC=CC=C1)NC(NC1=NC=C(C(=O)OC)C=C1)=O | C14H13N3O3
